US05462944
(iii) Preparation of 8-t-butyl-2-(4,6-dimethoxy pyrimid-2-ylaminomethyl)-1,4-dioxaspiro(4,5)decane
8-t-butyl-2-aminomethyl-1,4-dioxaspiro(4,5)decane (3.3 g, 14.5 mmol), 4,6-dimethoxy-2-methylsulfonyl-pyrimidine (3.16 g, 14.5 mmol) and potassium carbonate (2.76 g, 20 mmol) were heated to 160° C. for 1 hour. The reaction mixture was then extracted with toluene and the concentrated extracts purified by flash chromatography using a 3:1 mixture of toluene and ethylacetate. 3.5 g of a faint yellow oil was obtained which crystallised on standing. NMR analysis indicated the product being a mixture of diastereoisomers. M.p.: 76°-106° C.

reactant | 8-t-butyl-2-aminomethyl-1,4-dioxaspiro(4,5)decane | 14.5 mmol, 3.3 g | C(C)(C)(C)C1CCC2(OCC(O2)CN)CC1 | C13H25NO2
reactant | 4,6-dimethoxy-2-methylsulfonyl-pyrimidine | 14.5 mmol, 3.16 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
product | 8-t-butyl-2-(4,6-dimethoxy pyrimid-2-ylaminomethyl)-1,4-dioxaspiro(4,5)decane | 3.5 g | C(C)(C)(C)C1CCC2(OCC(O2)CNC2=NC(=CC(=N2)OC)OC)CC1 | C19H31N3O4
